US09029531B2
Step A: methyl 2-(6-cyanopyridin-2-yl)acetate
To a solution of 6-methylpicolinonitrile (2 g, 16.9 mmol) in THF (20 ml) was added slowly LiHMDS (17 ml, 1M in THF) at −78° C. under N2. Then the reaction mixture was stirred for 1 h at −78° C. and then dimethyl carbonate (1.52 g, 16.9 mmol) was added at −78° C. The mixture was stirred for 30 mins at −78° C. and allowed to 0° C. for 30 mins. Saturated ammonium chloride was added to neutralize to adjust to PH=7-8, the mixture was extracted by ethyl acetate (100 ml*3), the organic layer was dried by sodium sulfate, filtered, concentrated under vacuo to give the residue. The residue was purified by a standard method to give the desired product.

reactant | 6-methylpicolinonitrile | 16.9 mmol, 2 g | CC1=CC=CC(=N1)C#N | C7H6N2
reactant | LiHMDS | 1M, 17 ml | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
reactant | dimethyl carbonate | 16.9 mmol, 1.52 g | C(OC)(OC)=O | C3H6O3
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | methyl 2-(6-cyanopyridin-2-yl)acetate | C(#N)C1=CC=CC(=N1)CC(=O)OC | C9H8N2O2
